US06117886
Synthesis of 4-[N-(2-ethoxyethyl)benzimidazol-2-ylmethoxy]benzyl alcohol
In a manner similar to that of Production Example 9, the title compound (yield: 83.4%) was obtained as pale yellow prisms by use of 2-chloromethyl-N-(2-ethoxyethyl)benzimidazole and 4-Hydroxybenzyl alcohol.

reactant | 2-chloromethyl-N-(2-ethoxyethyl)benzimidazole | ClCC1=NC2=C(N1CCOCC)C=CC=C2 | C12H15ClN2O
reactant | 4-Hydroxybenzyl alcohol | OC1=CC=C(CO)C=C1 | C7H8O2
product | 4-[N-(2-ethoxyethyl)benzimidazol-2-ylmethoxy]benzyl alcohol | yield: 83.4% | C(C)OCCN1C(=NC2=C1C=CC=C2)COC2=CC=C(CO)C=C2 | C19H22N2O3
